US07288544B2
1) Synthesis of 4-[2-acetyl-3-(2,4-dimethylphenyl)-2-propenoyl]-1-piperazinecarboxylic acid t-butyl ester:
506 mg (2.71 mmol) of 1-(t-butoxycarbonyl) piperazine, 273 mg (3.23 mmol) of diketene and 0.562 ml (4.07 mmol) of triethylamine were heated and stirred in 10 ml of toluene at 80° C. for 2 hours. After adding saturated aqueous sodium hydrogencarbonate solution, the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. 364 mg (2.71 mmol) of 2,4-dimethylbenzaldehyde was dissolved in 20 ml of 2-propanol. 16.3 mg (0.271 mmol) of piperidine and 22.3 mg (0.271 mmol) of acetic acid were added and stirred at room temperature for 2 days. After the solvent was evaporated under reduced pressure, ethyl acetate was added. The obtained substance was washed with 1 N hydrochloric acid and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1) to obtain the title compound.

reactant | 1-(t-butoxycarbonyl) piperazine | 2.71 mmol, 506 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | diketene | 3.23 mmol, 273 mg | C=C1CC(=O)O1 | C4H4O2
reactant | triethylamine | 4.07 mmol, 0.562 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 2,4-dimethylbenzaldehyde | 2.71 mmol, 364 mg | CC1=C(C=O)C=CC(=C1)C | C9H10O
reactant | piperidine | 0.271 mmol, 16.3 mg | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.271 mmol, 22.3 mg | C(C)(=O)O | C2H4O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 4-[2-acetyl-3-(2,4-dimethylphenyl)-2-propenoyl]-1-piperazinecarboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(=CC1=C(C=C(C=C1)C)C)C(C)=O)=O | C22H30N2O4
